US05389640
4-Amino-N-hydroxyethyl-N-methyl-1-phenylmethyl-1H-imidazo[4,5-c]quinoline-2-methanamine Hemihydrate
2-Chloromethyl-1-phenylmethyl-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride (Example 28, prepared from 1.4 g of the alcohol) was added to N-methylethanolamine (20 mL). The mixture was heated in an oil bath for 3 hr at about 130° C. The solution was diluted with water and the mixture extracted with diethyl ether (7×200 mL). The combined extracts were washed with saturated sodium chloride solution and evaporated to dryness to yield an orange solid. The crude product was recrystallized from methanol/dichloromethane. m.p. 188°-195° C.

reactant | 2-Chloromethyl-1-phenylmethyl-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride | Cl.ClCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC1=CC=CC=C1
reactant | N-methylethanolamine | 20 mL | CNCCO | C3H9NO
solvent | water | O | H2O
product | 4-Amino-N-hydroxyethyl-N-methyl-1-phenylmethyl-1H-imidazo[4,5-c]quinoline-2-methanamine Hemihydrate | O.NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC=CC=C2)CN(C)CCO.NC2=NC=1C=CC=CC1C1=C2N=C(N1CC1=CC=CC=C1)CN(CCO)C | InChI=1S/2C21H23N5O.H2O/c2*1-25(11-12-27)14-18-24-19-20(26(18)13-15-7-3-2-4-8-15)16-9-5-6-10-17(16)23-21(19)22;/h2*2-10,27H,11-14H2,1H3,(H2,22,23);1H2
